US09216182B2
c) 1-(5-carbamoylpyridin-2-yl)pyrrolidin-3-yl 4-isopropylpiperazine-1-carboxylate
To a solution of 1-(5-carbamoylpyridin-2-yl)-pyrrolidin-3-yl 4-nitrophenyl carbonate (0.37 g, 1 mmol) in DCM (5 ml) was added 1-isopropylpiperazine (0.13 g, 1 mmol). The resulting solution was stirred under N2 at room temperature for 24 h. The reaction mixture was then filtered and the filter cake was washed with DCM. The combined filtrates were concentrated to afford the crude product. After further purified by preparative HPLC, the title compound was obtained as a yellow solid (36 mg, 10%). [1H NMR (500 MHz, CDCl3) δ8.60 (d, 1H), 7.94 (dd, 1H), 7.72 (s, 1H), 7.09 (s, 1H), 6.48 (d, 1H), 5.25 (s, 1H), 3.66 (m, 2H), 3.55 (m, 2H), 3.31 (m, 4H), 2.63 (m, 1H), 2.36 (m, 4H), 2.21 (m, 1H), 2.10 (m, 1H), 0.92 (d, 6H, J=6.5 Hz); LCMS RtA=1.58 min, [M+H]+=362.2].

reactant | 1-(5-carbamoylpyridin-2-yl)-pyrrolidin-3-yl 4-nitrophenyl carbonate | 1 mmol, 0.37 g | C(OC1CN(CC1)C1=NC=C(C=C1)C(N)=O)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C17H16N4O6
reactant | 1-isopropylpiperazine | 1 mmol, 0.13 g | C(C)(C)N1CCNCC1 | C7H16N2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 1-(5-carbamoylpyridin-2-yl)pyrrolidin-3-yl 4-isopropylpiperazine-1-carboxylate | C(C)(C)N1CCN(CC1)C(=O)OC1CN(CC1)C1=NC=C(C=C1)C(N)=O | C18H27N5O3
